US08461339B2
B. 7-Chloroisoquinoline-3-carboxylic acid
Oxalyl choride (5.7 mL) was added dropwise to a solution of 3-(4-chlorophenyl)-2-formylamino-propanoic acid methyl ester (14.5 g, 60 mmol) in CH2Cl2 (400 mL) at room temperature. After stirring for 0.5 hour, ferric chloride (11.7 g) was added and the mixture was stirred for 48 hours. The reaction mixture was diluted with water (500 mL). The organic layer was separated, and the aqueous layer was re-extracted with CH2Cl2 (2×300 mL). The organic layers were combined, washed with brine (200 mL), dried over anhydrous Na2SO4, filtered and concentrated to dryness. The residue was dissolved in MeOH (400 mL), sulfuric acid (20 mL, 98%) was added and the mixture was heated under reflux for 48 hours. After cooled to room temperature, the reaction mixture was diluted with 5% sodium bicarbonate solution (1 L). The organic layer was separated, and the aqueous layer was re-extracted with CH2Cl2 (2×500 mL). The organic layers were combined, washed with brine (500 mL), dried over anhydrous Na2SO4, filtered and concentrated to dryness. The crude material was further purified by silica gel chromatography (EtOAc/Hexane=1/3) and afforded the title compound (3.1 g, 23.3% yield) as a yellow solid. 1H NMR (300 MHz, CDCl3): 9.26 (s, 1H), 8.51 (s, 1H), 8.05 (d, J=1.8 Hz, 1H), 7.93 (d, J=8.7 Hz, 1H), 7.73 (dd, J=1.8 and 8.7 Hz, 1H), 4.06 (s, 3H).

reactant | Oxalyl choride | 5.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(4-chlorophenyl)-2-formylamino-propanoic acid methyl ester | 60 mmol, 14.5 g | COC(C(CC1=CC=C(C=C1)Cl)NC=O)=O | C11H12ClNO3
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | 7-Chloroisoquinoline-3-carboxylic acid | 3.1 g, 23.3% yield | ClC1=CC=C2C=C(N=CC2=C1)C(=O)O | C10H6ClNO2
